US06727264B1
METHYL 1-PHENYL-1H-INDOLE-6-CARBOXYLATE:
Prepared by Procedure C and Scheme O using methyl 1H-indole-6-carboxylate and iodobenzene: ESMS m/e: 252.0 (M+H)+.

reactant | methyl 1H-indole-6-carboxylate | N1C=CC2=CC=C(C=C12)C(=O)OC | C10H9NO2
reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
product | METHYL 1-PHENYL-1H-INDOLE-6-CARBOXYLATE | C1(=CC=CC=C1)N1C=CC2=CC=C(C=C12)C(=O)OC | C16H13NO2
